US07652143B2
t-Butyl 2-(2-benzylamino-1-(4-methoxybenzyl)ethylamino)-3-methylbutyrate (0.64 g; 1.5 mmol) was dissolved in toluene (40 ml). Triethylamine (457 μL; 3.3 mmol) and triphosgene (0.49 g; 1.65 mmol) were added. The reaction mixture was stirred at RT for 4.5 h. It was then washed with water (1×), saturated NaHCO3 solution (1×) and again with water (1×). The organic phase was dried over Na2SO4 and concentrated in a rotary evaporator. The crude product was chromatographed on an SiO2 cartridge (EtOAc/n-heptane 1:3). t-Butyl 2-(3-benzyl-5-(4-methoxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate (0.22 g, 0.48 mmol) was obtained as a yellow oil. MS: 453.20 (M+H); Rt: 1.94 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | t-Butyl 2-(2-benzylamino-1-(4-methoxybenzyl)ethylamino)-3-methylbutyrate | 1.5 mmol, 0.64 g | C(C1=CC=CC=C1)NCC(CC1=CC=C(C=C1)OC)NC(C(=O)OC(C)(C)C)C(C)C | C26H38N2O3
reactant | Triethylamine | 3.3 mmol, 457 μL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 1.65 mmol, 0.49 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | t-Butyl 2-(3-benzyl-5-(4-methoxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate | 0.48 mmol, 0.22 g | C(C1=CC=CC=C1)N1C(N(C(C1)CC1=CC=C(C=C1)OC)C(C(=O)OC(C)(C)C)C(C)C)=O | C27H36N2O4
